US05401772
To 31 g of 2,6-dichlorophenol in 120 ml acetic acid cooled in an ice bath is added over 5 minutes 50 ml of 70% nitric acid. After stirring an hour at room temperature, the mixture is purged with nitrogen, then poured into water, filtered; the product is washed with water and dried in vacuo to give 2,6-dichloro-4-nitrophenol. NMR (CD3OD): δ8.2(s).

reactant | 2,6-dichlorophenol | 31 g | ClC1=C(C(=CC=C1)Cl)O | C6H4Cl2O
reactant | nitric acid | 50 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 2,6-dichloro-4-nitrophenol | ClC1=C(C(=CC(=C1)[N+](=O)[O-])Cl)O | C6H3Cl2NO3
